US05753664
2-[4-(4-Chlorobenzoyl)benzyl]thio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
In DMF (20 ml) was dissolved 2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (836 ml) followed by addition of 1N-sodium hydroxide (5 ml). Then, under ice-cooling, a solution of 4-(4-chlorobenzoyl)benzyl bromide (1.63 g) in DMF (5 ml) was added dropwise. The mixture was stirred at room temperature for 4 hours, at the end of which time it was poured in ice-water (200 ml). The resulting precipitate was collected by filtration, rinsed with water, and dried. This precipitate was purified by flash column chromatography (3-5% ethanol-containing chloroform) to provide the title compound (1.33 g). 1H-NMR (DMSO-d6) δ: 4.52(2H,s), 6.34-6.37(1H,m), 6.91-6.95(1H,m), 7.61(2H,d,J=8.4Hz), 7.65(2H,d,J=8.4Hz), 7.70(2H,d,J=8.4Hz), 7.74(2H,d,J=8.4Hz), 11.42(1H,s), 11.95(1H,s).

reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.63 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | 2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 836 ml | SC=1NC(C2=C(N1)NC=C2)=O | C6H5N3OS
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[4-(4-Chlorobenzoyl)benzyl]thio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.33 g | ClC1=CC=C(C(=O)C2=CC=C(CSC=3NC(C4=C(N3)NC=C4)=O)C=C2)C=C1 | C20H14ClN3O2S
